US04863947
To 20.0 g of methyl 3-(4-chlorophenyl)-3-keto-propanoate in 100 ml of methanol was added a mixture of 4.7 g of hydrazine monohydrate and 7.6 g of 37% formalin in 50 ml of methanol. The reaction was stirred at room temperature for 18 hrs. The methanol was then removed in vacuo and the product was dissolved in 40 ml of methylene chloride and washed 5 times with 100 ml portions of water. The methylene chloride layer was dried over anhydrous magnesium sulfate and evaporated in vacuo to yield 22 g of 3-(4-chlorophenyl)-4-carbomethoxy-4,5-dihydro-1H-pyrazole which was used without further purification in the next reaction.

reactant | methyl 3-(4-chlorophenyl)-3-keto-propanoate | 20.0 g | ClC1=CC=C(C=C1)C(CC(=O)OC)=O | C10H9ClO3
reactant | hydrazine monohydrate | 4.7 g | O.NN
reactant | formalin | 7.6 g | C=O | CH2O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 3-(4-chlorophenyl)-4-carbomethoxy-4,5-dihydro-1H-pyrazole | 22 g | ClC1=CC=C(C=C1)C1=NNCC1C(=O)OC | C11H11ClN2O2
